US08957069B2
1-(2,4,6,7-Tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(1,3,4-thiadiazol-2-yl)piperazine
By using 1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (130 mg, 0.50 mmol) synthesized in Reference example 56 and 2-bromo-1,3,4-thiadiazole (165 mg, 1.0 mmol), the reaction was carried out in the same manner as Example 23 to synthesis the title compound 24 mg (yield 14%).

reactant | 1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 0.50 mmol, 130 mg | CC1OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C | C16H24N2O
reactant | 2-bromo-1,3,4-thiadiazole | 1.0 mmol, 165 mg | BrC=1SC=NN1 | C2HBrN2S
product | 1-(2,4,6,7-Tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(1,3,4-thiadiazol-2-yl)piperazine | 24 mg, yield 14% | CC1OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C=2SC=NN2)C | C18H24N4OS
